US08039472B2
3,5-Diamino-6-chloropyrazine-2-carboxylic acid [8-[1-(toluene-4-sulfonyl)-1H-pyrrole-3-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
A solution of 1-(Toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid (0.023 g, 0.085 mmol) in NMP (850 □l) is added to PS-carbodiimide (190 mg of 1.3 mmol/g loading, 0.24 mmol), followed by a solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (0.08 mmol) and N-methyl morpholine (8 □l, 0.08 mmol) in NMP (1 ml), and the resulting reaction mixture is shaken at room temperature. The reaction mixture is filtered and the resin is washed with NMP (1 ml). The collected filtrate is concentrated in vacuo and the residues are purified by mass-directed preparative HPLC. The purified fractions are evaporated under vacuum to afford the title compound; [M+H]+ 572.08

reactant | 1-(Toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid | 0.085 mmol, 0.023 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)C(=O)O)C | C12H11NO4S
reactant | carbodiimide | 0.24 mmol, 190 mg | N=C=N | CH2N2
reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 0.08 mmol | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
reactant | N-methyl morpholine | 0.08 mmol | CN1CCOCC1 | C5H11NO
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 3,5-Diamino-6-chloropyrazine-2-carboxylic acid [8-[1-(toluene-4-sulfonyl)-1H-pyrrole-3-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1)C | C24H26ClN9O4S
